US07572809B2
Similar procedure as described in example 384 was used, starting from 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid and Cyclohexyl-methyl-amine to give 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid cyclohexyl-methyl-amide. LC-MS: m/e 422 (MH+).

reactant | 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)C(=O)O)NC1=NNC(=C1)C | C17H18N4O3
reactant | Cyclohexyl-methyl-amine | C1(CCCCC1)NC | C7H15N
product | 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid cyclohexyl-methyl-amide | C1(CCCCC1)N(C(=O)C=1C=C2C=C(N=C(C2=CC1)OC(C)C)NC1=NNC(=C1)C)C | C24H31N5O2
